US07138425B2
c) 2-[2-Methoxy-5-[5-[(5-methyl)thiophen-2-yl]benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-4-methoxyphenyl-5-[(5-methyl)thiophen-2-yl]benzoxazole (64 mg, 0.19 mmol) and 1,2,4-benzenetricarboxylic anhydride (40 mg, 0.20 mmol) the title compound was obtained (62 mg, 64%). 1H NMR (DMSO) δ 8.45(dd, 1H), 8.36–8.30(m, 3H), 8.11(d, 1H), 7.94(d, 1H), 7.77(d, 1H), 7.61(dd, 1H), 7.49(d, 1H), 7.36(d, 1H), 6.84(dd, 1H), 3.89(s, 3H), 2.50(s, 3H). MS m/z 511.1 (M+H)+.

reactant | 3-amino-4-methoxyphenyl-5-[(5-methyl)thiophen-2-yl]benzoxazole | 0.19 mmol, 64 mg | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C=2SC(=CC2)C | C19H16N2O2S
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.20 mmol, 40 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methoxy-5-[5-[(5-methyl)thiophen-2-yl]benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C=2SC(=CC2)C)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C28H18N2O6S
